US07435823B2
Pd on carbon (5 wt %, 0.350 g) was added to a solution of methyl 6-(benzyloxy)-4-(dibenzylamino)-1-naphthoate (3.409 g, 6.834 mmol) in MeOH (70 mL). The system was evacuated and purged with argon and then stirred under a H2 (g) atmosphere for 20 h. The mixture was filtered through a pad of Celite and concentrated to afford methyl 4-amino-6-hydroxy-1-naphthoate as a light brown solid. MS (ESI, pos. ion) m/z: 218.1 (M+H). Mass Calc'd for C12H11NO3: 217.

reactant | methyl 6-(benzyloxy)-4-(dibenzylamino)-1-naphthoate | 6.834 mmol, 3.409 g | C(C1=CC=CC=C1)OC=1C=C2C(=CC=C(C2=CC1)C(=O)OC)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C33H29NO3
solvent | MeOH | 70 mL | CO | CH4O
catalyst | Pd on carbon | 0.350 g | [Pd] | Pd
product | methyl 4-amino-6-hydroxy-1-naphthoate | NC1=CC=C(C2=CC=C(C=C12)O)C(=O)OC | C12H11NO3
